US04112114
1.0 G. of 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionic acid is dissolved in 25 ml. of chloroform, and 1 ml. of thionyl chloride and 0.1 ml. of diethylformamide are added thereto. The mixture is left for 1 hour then evaporated under high vacuum to afford 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionyl chloride. In similar manner, substituting the acids prepared in Preparations 3 and 5-8 for the 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionic acid used above, the corresponding acid chlorides are prepared.

reactant | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionic acid | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)O)C)C=CC=C2 | C18H14O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | diethylformamide | C(C)N(C=O)CC | C5H11NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-oxo-5H-dibenzo[a,d]cyclohepten-2-yl)propionyl chloride | O=C1C2=C(C=CC3=C1C=CC(=C3)C(C(=O)Cl)C)C=CC=C2 | C18H13ClO2
